US04699914
1-[5-(2-nitro-1-propenyl)-2-thienyl]-imidazole
Similar to example 4(a), the reaction is carried out with 60 g 5-(1-imidazolyl)-thiophene-2-aldehyde (EPA No. 112 987), 23.1 g nitroethane, 2 4 g β-alanine and 210 ml n-butanol.

reactant | 5-(1-imidazolyl)-thiophene-2-aldehyde | 60 g | N1(C=NC=C1)C1=CC=C(S1)C=O | C8H6N2OS
reactant | nitroethane | 23.1 g | [N+](=O)([O-])CC | C2H5NO2
reactant | β-alanine | NCCC(=O)O | C3H7NO2
solvent | n-butanol | 210 ml | C(CCC)O | C4H10O
product | 1-[5-(2-nitro-1-propenyl)-2-thienyl]-imidazole | [N+](=O)([O-])C(=CC1=CC=C(S1)N1C=NC=C1)C | C10H9N3O2S
